US04239759
A mixture of 2.6 g of of 3-(4'-chloro-4-biphenylyl)butylamine, 12 ml of pyridine and 1 ml of acetyl chloride is allowed to stand for 2 hours, decomposed with water and worked up in the customary manner to give 1-acetamido-3-(4'-chloro-4-biphenylyl)-butane, m.p. 118°-120°.

reactant | 3-(4'-chloro-4-biphenylyl)butylamine | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCN)C | C16H18ClN
reactant | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 1 ml | C(C)(=O)Cl | C2H3ClO
solvent | water | O | H2O
product | 1-acetamido-3-(4'-chloro-4-biphenylyl)-butane | C(C)(=O)NCCC(C)C1=CC=C(C=C1)C1=CC=C(C=C1)Cl | C18H20ClNO
